US08420642B2
5-(4-Methanesulfonyl-phenoxy)-3-(2-methoxy-ethoxy)-2-nitro-pyridine (0.39 mmol) is dissolved in acetic acid (4 ml). After addition of water (1.2 ml), zinc powder (6.3 eq.) is added and the reaction suspension is heated to 105° C. for 90 minutes. The reaction suspension is cooled to room temperature and filtrated. The filtrate is pored into 3.5% NaOH (30 ml) and extracted with dichloromethane. The combined organic layers are washed with brine, dried over MgSO4 and the solvent is removed in vacuo. 5-(4-Methanesulfonyl-phenoxy)-3-(2-methoxy-ethoxy)-pyridine-2-ylamine is obtained as yellow oil in a yield of 96%. HPLC (method C): 1.21 min, LC-MS (method A): 0.55 min, 339.15 (MO.

reactant | 5-(4-Methanesulfonyl-phenoxy)-3-(2-methoxy-ethoxy)-2-nitro-pyridine | 0.39 mmol | CS(=O)(=O)C1=CC=C(OC=2C=C(C(=NC2)[N+](=O)[O-])OCCOC)C=C1 | C15H16N2O7S
reactant | water | 1.2 ml | O | H2O
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 6.3 eq. | [Zn] | Zn
product | 5-(4-Methanesulfonyl-phenoxy)-3-(2-methoxy-ethoxy)-pyridine-2-ylamine | yield of 96% | CS(=O)(=O)C1=CC=C(OC=2C=C(C(=NC2)N)OCCOC)C=C1 | C15H18N2O5S
